US05696299
Interesterification was carried out in the same manner as in Example 9, except for replacing dimethyl tetradecadicarboxylate with 140 g of dimethyl decamethylenedicarboxylate at 80° C. for 25 hours. The water content of the reaction system was 0.04% by weight, and 95% of the lipase particles had a particle size of 20 to 60 μm. Gas chromatography of the reaction mixture revealed that 58 mol % of (R,S)-2-octanol had been converted to its decamethylenedicarboxylic acid ester. The reaction mixture was treated in the same manner as in Example 9 to remove lipase, and the filtrate was subjected to simple distillation at 95° C. and 3 mmHg. However, it was impossible to isolate (S)-(-)-2-octanol with high purity due to co-distillation of other components.

reactant | dimethyl decamethylenedicarboxylate | 140 g | C(=O)(OC)CCCCCCCCCCC(=O)OC | C14H26O4
reactant | water | O | H2O
product | (S)-(-)-2-octanol | C[C@@H](CCCCCC)O | C8H18O
